US07858613B2
(2,4-Difluorophenyl)thiocarbamic acid O-(4-hydroxymethyl-5-oxo-2,3,4,5-tetrahydrobenzo[b]oxepin-4-ylmethyl)ester
To a solution of 4,4-bis(hydroxymethyl)-3,4-dihydro-2H-benzo[b]oxepin-5-one (500 mg, 2.25 mmol) in 28 ml of tetrahydrofuran were added, at room temperature, triethylamine (0.34 ml, 2.48 mmol) and 2,4-difluorophenyl isothiocyanate (734 μl, 5.63 mmol). The mixture was heated to reflux for 72 hours, concentrated and purified by column chromatography on silica gel (eluent: 1:2 tert-butyl methyl ether/cyclohexane). The product was obtained in a yield of 376 mg (43%).

reactant | 4,4-bis(hydroxymethyl)-3,4-dihydro-2H-benzo[b]oxepin-5-one | 2.25 mmol, 500 mg | OCC1(C(C2=C(OCC1)C=CC=C2)=O)CO | C12H14O4
reactant | triethylamine | 2.48 mmol, 0.34 ml | C(C)N(CC)CC | C6H15N
reactant | 2,4-difluorophenyl isothiocyanate | 5.63 mmol, 734 μl | FC1=C(C=CC(=C1)F)N=C=S | C7H3F2NS
solvent | tetrahydrofuran | 28 ml | O1CCCC1 | C4H8O
product | (2,4-Difluorophenyl)thiocarbamic acid O-(4-hydroxymethyl-5-oxo-2,3,4,5-tetrahydrobenzo[b]oxepin-4-ylmethyl)ester | OCC1(C(C2=C(OCC1)C=CC=C2)=O)COC(NC2=C(C=C(C=C2)F)F)=S | C19H17F2NO4S
